US07514419B2
Compound 7-19: [2,6-dimethyl-4-(4′-hydroxy-3′-iso-propylbenzyl)-phenoxymethyl]phosphonic acid
Intermediate 2,6-dimethyl-4-(4′-methoxymethoxy-3′-iso-propyl-benzyl)phenol was prepared from 3,5-dimethyl-4-hydroxy benzaldehyde and bromo-4-methoxymethoxy-3-iso-propylbenzene according to the procedure described in Chiellini et al., Bioorg. Med. Chem. Lett. 10:2607 (2000) and transformed into the title compound according to the procedure described for the synthesis of compound 7-17, step b; (0.12 g, 85%); 1H NMR (300 MHz, CD3OD): δ 6.97 (s, 1H), 6.83 (s, 2H), 6.77 (d, J=7.5 Hz, 1H), 6.65 (d, J=7.5 Hz, 1H), 4.0 (d, J=9.9 Hz, 2H), 3.75(s, 2H), 3.20-3.29 (m, 1H), 2.28 (s, 6H), 1.19 (d, J=6.6 Hz, 6H); LC-MS m/z=363 [C20H25O6P−H]+; (94%) HPLC conditions: ODSAQ AQ-303-5 column; mobile phase=CH3OH: 0.05% TFA/H2O (7:3) flow rate=1.0 mL/min; detection=UV @ 254 nm retention time in min: 10.92; Anal Calcd for (C20H25O6P+1.2H2O): C, 59.12; H, 7.15. Found: C, 58.96; H, 6.77.

reactant | 3,5-dimethyl-4-hydroxy benzaldehyde | CC=1C=C(C=O)C=C(C1O)C | C9H10O2
reactant | bromo-4-methoxymethoxy-3-iso-propylbenzene | BrC1=CC(=C(C=C1)OCOC)C(C)C | C11H15BrO2
reactant | TFA H2O | C(=O)(C(F)(F)F)O.O
solvent | CH3OH | CO | CH4O
product | 2,6-dimethyl-4-(4′-methoxymethoxy-3′-iso-propyl-benzyl)phenol | CC1=C(C(=CC(=C1)CC1=CC(=C(C=C1)OCOC)C(C)C)C)O | C20H26O3
